US05424311
In analogy to Example 2, but using only one mole equivalent of triethylamine, 5 g (27 mmol) of (-)-S-methyl-L-cysteine methyl ester were reacted with 3.51 g (22.5 mmol) of 2-chloro-3-nitropyridine (reaction conditions: 5 hours at 80° C.). Working up was followed by chromatography on silica gel (n-heptane/acetone/methyl t-butyl ether=5:1:1). 3.3 g (45%) of N-(3-nitro-2-pyridyl)-(-)-S-methyl-L-cysteine methyl ester, of melting point 95°-97° C., were obtained.

reactant | (-)-S-methyl-L-cysteine methyl ester | 27 mmol, 5 g | COC([C@@H](N)CSC)=O | C5H11NO2S
reactant | 2-chloro-3-nitropyridine | 22.5 mmol, 3.51 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-(3-nitro-2-pyridyl)-(-)-S-methyl-L-cysteine methyl ester | 3.3 g, 45% | COC([C@@H](NC1=NC=CC=C1[N+](=O)[O-])CSC)=O | C10H13N3O4S
